US07297804B2
Comparative Example 1g (Tributyltin (2-ethylhexanoate)
A three-necked flask equipped with mechanical mixer, heating, thermometer and vacuum distillation bridge was, under nitrogen protective atmosphere, filled with 149 (0.25 Mol) hexabutyidistannoxane and 72.1 g (0.5 Mol) 2-ethylhexanoic acid. The reaction mixture was heated up on 80° C. To separate from the reaction water a vacuum of 1 mbar was applied, and the reaction mixture was stirred another 1 h at this temperature.

reactant | hexabutyidistannoxane | C(CCC)[Sn](O[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | 2-ethylhexanoic acid | 0.5 Mol, 72.1 g | C(C)C(C(=O)O)CCCC | C8H16O2
product | Tributyltin (2-ethylhexanoate) | C(C)C(C(=O)[O-])CCCC.C(CCC)[Sn+](CCCC)CCCC | InChI=1S/C8H16O2.3C4H9.Sn/c1-3-5-6-7(4-2)8(9)10;3*1-3-4-2;/h7H,3-6H2,1-2H3,(H,9,10);3*1,3-4H2,2H3;/q;;;;+1/p-1
